US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(3,5-bis(trifluoromethyl)phenyl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 397, starting from 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine and 3,5-bis(trifluoromethyl)phenyl boronic acid. Mass spectrum (ESI) 528.3 (M+1).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)I | C19H16IN5
reactant | 3,5-bis(trifluoromethyl)phenyl boronic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(3,5-bis(trifluoromethyl)phenyl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H19F6N5
